US05310926
Preparation of methyl 4,5-bis(4-methoxyphenyl)-5-oxo-3-pentenoate
To 430 ml of tert-butanol were added 128 g of deoxyanisoin, 67.3 g of potassium tert-butoxide and 116 g of methyl 3-methoxyacrylate, and the mixture was stirred at 70° C. for 3 hours. After the completion of reaction, the reaction mixture was allowed to stand at room temperature with addition of n-hexane. The product separating out was filtered off and dissolved with 1000 ml of ethyl acetate and 300 ml of 3N sulfuric acid. The organic layer was collected, washed with 3N sulfuric acid and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The organic layer was concentrated at a reduced pressure, giving 153 g (yield 90%) of the above-identified compound as an oily product.

reactant | tert-butanol | 430 ml | C(C)(C)(C)O | C4H10O
reactant | deoxyanisoin | 128 g | C1(=CC=C(OC)C=C1)C(=O)CC1=CC=C(OC)C=C1 | C16H16O3
reactant | potassium tert-butoxide | 67.3 g | CC(C)([O-])C.[K+]
reactant | methyl 3-methoxyacrylate | 116 g | COC=CC(=O)OC | C5H8O3
solvent | n-hexane | CCCCCC | C6H14
product | methyl 4,5-bis(4-methoxyphenyl)-5-oxo-3-pentenoate | 153 g, yield 90% | COC1=CC=C(C=C1)C(=CCC(=O)OC)C(=O)C1=CC=C(C=C1)OC | C20H20O5
